US08314126B2
1-ETHYL-4-[2-FLUORO-3-(METHYLSULFONYL)PHENYL]PIPERIDINE
A mixture of 1-ethyl-4-[2-fluoro-3-(methylsulfonyl)phenyl]-1,2,3,6-tetrahydropyridine (5 g, 17.7 mmol), formic acid (3.4 ml, 90 mmol) and palladium on carbon (1.1 g) in isopropanol (50 ml) was shaken in a parr apparatus for 20 h. The reaction mixture was filtered through a pad of celite and the filtrate was concentrated and evaporated to dryness. Aqueous sodium carbonate (10%, 200 ml) was added and the mixture was extracted with ethyl acetate (3×100 ml). The combined organic phases was dried (MgSO4) and evaporated to dryness. Flash column chromatography (ethylacetate/methanol, 1:1) gave the title compound (3.5 g, 70%). The amine was converted to the hydrochloric acid salt and recrystallized from ethanol/diethyl ether: M.p. 280.2° C. MS m/z (relative intensity, 70 eV) 285 (M+, 12), 270 (bp), 57 (19), 84 (15) 133 (9).

reactant | 1-ethyl-4-[2-fluoro-3-(methylsulfonyl)phenyl]-1,2,3,6-tetrahydropyridine | 17.7 mmol, 5 g | C(C)N1CCC(=CC1)C1=C(C(=CC=C1)S(=O)(=O)C)F | C14H18FNO2S
reactant | formic acid | 90 mmol, 3.4 ml | C(=O)O | CH2O2
catalyst | palladium on carbon | 1.1 g | [Pd] | Pd
solvent | isopropanol | 50 ml | C(C)(C)O | C3H8O
product | 1-ETHYL-4-[2-FLUORO-3-(METHYLSULFONYL)PHENYL]PIPERIDINE | 3.5 g, 70% | C(C)N1CCC(CC1)C1=C(C(=CC=C1)S(=O)(=O)C)F | C14H20FNO2S
